US04997473
2-(2'-Nitro-4'-methylsulfonylbenzoyl)-4-propargyl-1,3-cyclohexanedione
4Propargyl-1,3-cyclohexanedione (3.75 g, 25 mmol) and 4-methanesulfonyl-2-nitrobenzoyl chloride (6.06 g, 23 mmol) were dissolved in acetonitrile (100 mL) at 0° C. Triethylamine (9.6 mL, 69 mmol) was added. The mixture was then stirred for 3 hours. To the mixture was then added potassium cyanide (5.0 g) and 18-crown-6 ether (0.5 g) in one portion. The mixture was stirred for 3 days. After dilution with ether, the solution was washed with 1N HC1 and extracted with 5% K2CO3. The basic extract was acidified with concentrated HC1 and extracted with diethyl ether. The ether extract was washed with brine, dried over MgSO4, and concentrated under vacuum, yielding 3.9 g of the desired product, an orange solid, m.p. 65-70° C. The structure was confirmed by nuclear magnetic spectroscopy, infrared spectroscopy, and mass spectroscopy.

reactant | 4Propargyl-1,3-cyclohexanedione | 25 mmol, 3.75 g | C(C#C)C1C(CC(CC1)=O)=O | C9H10O2
reactant | 4-methanesulfonyl-2-nitrobenzoyl chloride | 23 mmol, 6.06 g | CS(=O)(=O)C1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO5S
reactant | Triethylamine | 69 mmol, 9.6 mL | C(C)N(CC)CC | C6H15N
reactant | potassium cyanide | 5.0 g | [C-]#N.[K+]
reactant | 18-crown-6 ether | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-(2'-Nitro-4'-methylsulfonylbenzoyl)-4-propargyl-1,3-cyclohexanedione | 3.9 g | [N+](=O)([O-])C1=C(C(=O)C2C(CCC(C2=O)CC#C)=O)C=CC(=C1)S(=O)(=O)C | C17H15NO7S
